US08957069B2
5-bromo-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran
Lithium aluminium hydride (2.33 mg, 61.5 mmol) was added to a suspension of THF (70 mL) containing aluminium chloride (8.20 g, 6.15 mmol) under ice-cooling condition, and the mixture was stirred for 15 minutes. After that, a solution of THF (30 mL) containing 5-bromo-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one (6.63 g, 24.6 mmol) synthesized in Reference Example 119 was added thereto, and the mixture was stirred under heated reflux for 2.5 hours. The reaction solution was iced, and after that, water was added dropwise thereto. 0.5N sodium hydroxide aqueous solution was further added thereto, and the mixture was stirred at room temperature for 10 minutes. Insolubles were removed by filtration. The filtrate was subjected to extraction using a mixed solvent of ethyl acetate-diethyl ether (1:1). The extract was washed with saturated saline, and then dried using anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane-ethyl acetate 9:1). Crystallization was performed using methanol-ethyl acetate to give 5.29 g of the title compound (yield: 84%).

reactant | Lithium aluminium hydride | 61.5 mmol, 2.33 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminium chloride | 6.15 mmol, 8.20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-bromo-2,2,4,6-tetramethyl-1-benzofuran-3(2H)-one | 24.6 mmol, 6.63 g | BrC=1C(=CC2=C(C(C(O2)(C)C)=O)C1C)C | C12H13BrO2
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
solvent | water | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 5-bromo-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran | 5.29 g, yield: 84% | BrC=1C(=CC2=C(CC(O2)(C)C)C1C)C | C12H15BrO
